US04623650
1-(2-Bromo-3-fluoro-6-nitrophenoxy)-propan-2-one
Chloroacetone (3.8 g, 3.3 ml, 41 mmol) was added dropwise to a solution of 3-bromo-4-fluoro-2-hydroxy-1-nitrobenzene (4.3 g, 18.2 mmol) in acetone (54 ml) with stirring at ambient temperature. Potassium carbonate (5.8 g, 42 mmol) and potassium iodide (6.0 g, 36.4 mmol), were added and the reaction mixture was heated to reflux temperature for 2 hours. The reaction mixture was then cooled to room temperature, poured onto water (100 ml), and extracted three times with ethyl acetate (150 ml). The combined organic layers were dried over magnesium sulfate, treated with decolorizing charcoal and filtered through diatomaceous earth. Solvent was removed in vacuo to afford a dark brown oil.

reactant | Chloroacetone | 41 mmol, 3.3 ml, 3.8 g | ClCC(C)=O | C3H5ClO
reactant | 3-bromo-4-fluoro-2-hydroxy-1-nitrobenzene | 18.2 mmol, 4.3 g | BrC=1C(=C(C=CC1F)[N+](=O)[O-])O | C6H3BrFNO3
reactant | Potassium carbonate | 42 mmol, 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 36.4 mmol, 6.0 g | [I-].[K+]
solvent | acetone | 54 ml | CC(=O)C | C3H6O
product | 1-(2-Bromo-3-fluoro-6-nitrophenoxy)-propan-2-one | BrC1=C(OCC(C)=O)C(=CC=C1F)[N+](=O)[O-] | C9H7BrFNO4
